US06551682B1
(7) Production of 10-(3,5-dichloro-2-pyridylazo)-9-phenanthrol (No. L70)
Next, a reaction flask was loaded with acetic acid (15 ml) and 9,10-phenanthrenequinone (5.0 g), and the temperature was raised to 105° C. with stirring to dissolve 9,10-phenanthrenequinone. To the resultant, the crystals of 3,5-dichloro-2-hydrazinopyridine (4.6 g) was added in 30 minutes. After stirring at 105 to 110° C. for one hour, the reaction mixture was filtrated. The filtrated crystals were washed with methanol, and then dried to give intended crystals (5.1 g).

reactant | 9,10-phenanthrenequinone | 5.0 g | C1=CC=CC=2C3=CC=CC=C3C(C(C12)=O)=O | C14H8O2
reactant | 3,5-dichloro-2-hydrazinopyridine | 4.6 g | ClC=1C(=NC=C(C1)Cl)NN | C5H5Cl2N3
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 10-(3,5-dichloro-2-pyridylazo)-9-phenanthrol | ClC=1C(=NC=C(C1)Cl)N=NC1=C(C2=CC=CC=C2C=2C=CC=CC12)O | C19H11Cl2N3O
